US07141569B2
To a solution of 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-5-amine (60 mg, 0.15 mmol) in anhydrous pyridine (5 mL) was added methylsulfonyl chloride (36 mg, 0.3 mmol). The reaction was stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate, then saturated aquous bicarbonate was added. The phases were separated, the organic phase was washed with water, brine and dried (magnesium sulfate). Filtration and concentration, followed by flash chromatography (1:1 ethyl acetate-hexane) gave N-[3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-5-yl]methanesulfonamide (35 mg, 50%) as a solid. 1H-NMR (CDCl3): δ 8.42 (d, 1H), 8.15 (d, 1H), 8.05 (d, 1H), 7.60 (q, 2H), 7.13 (t, 2H), 6.90 (dd, 1H), 6.30 (d, 1H), 5.34 (d, 1H), 4.30 (m, 1H), 3.12 (s, 3H), 1.5–2.2 (m, 8H); 19F-NMR (CDCl3): δ −112.64; MS m/z 467 (M+1).

reactant | 3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-5-amine | 0.15 mmol, 60 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=C(C=C2)N)C2=CC=C(C=C2)F | C22H21FN6
reactant | methylsulfonyl chloride | 0.3 mmol, 36 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | bicarbonate | C([O-])(O)=O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-[2-(cyclopentylamino)-4-pyrimidinyl]-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-5-yl]methanesulfonamide | 35 mg, 50% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=C(C=C2)NS(=O)(=O)C)C2=CC=C(C=C2)F | C23H23FN6O2S
